US07700634B2
To a solution of 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid N′-(2-chloroacetyl)hydrazide (250 mg, 0.662 mmol) in tetrahydrofuran (3 ml) was added (methoxycarbonylsulfamoyl)triethylammonium hydroxide, inner salt (315 mg, 1.32 mmol) and the resulting reaction mixture subjected to microwave irradiation at 150° C. for 15 minutes. The reaction mixture was quenched with methanol and the solvent evaporated. The resulting residue was purified by flash chromatography using 33-50% (v/v) ethyl acetate in heptane to give 3-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (169 mg, 0.47 mmol) as a yellow solid. This reaction was repeated on a 0.53 mmol scale to afford the same intermediate (a total of 276 mg, 0.77 mmol).

reactant | 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid N′-(2-chloroacetyl)hydrazide | 0.662 mmol, 250 mg | ClCC(=O)NNC(=O)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C19H24ClN3O3
reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-(5-chloromethyl-[1,3,4]oxadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 0.47 mmol, 169 mg | ClCC1=NN=C(O1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C19H22ClN3O2
